*ZETEX  FZT605  Darlington Spice Subcircuit    Last revision 27/8/91
*
.SUBCKT FZT605 1 2 3
*              C B E
Q1 1 2 4 SUB605
Q2 1 4 3 SUB605 3.46
*
.MODEL SUB605 NPN IS=4.8E-14 BF=170 VAF=542 NF=1.0039 IKF=0.2 ISE=1.5E-14
+NE=1.55 BR=12 VAR=20 NR=1.007 IKR=0.35 ISC=7.486E-14 NC=1.0984 RB=0.17 RE=0.3
+RC=0.14 CJE=81E-12 CJC=10.8E-12 VJC=0.85 MJC=0.41 TF=1.024E-9 TR=700E-9
.ENDS FZT605
*
*                          (C)  1991 ZETEX PLC
*
*   The copyright in this model  and  the design embodied belong to
*   Zetex PLC ("Zetex"). It is supplied free of charge by Zetex for
*   the purpose  of research  and design  and may be used or copied
*   intact (including this notice) for that purpose only. All other
*   rights  are  reserved.  The model  is believed  accurate but no
*   condition or warranty as to its  merchantability or fitness for
*   purpose  is  given  and  no liability  in respect of any use is
*   accepted by Zetex PLC, its distributors or agent.
*
*
*   Zetex PLC, Fields New Road, Chadderton, Oldham  OL9 8NP
